US07799894B2
(2) Synthesis of 2,3-diphenyl-5-(4-aminophenyl)aminoquinoxaline
5.4 g (2.9 mmol) of 2,3-diphenyl-5-(4-nitrophenyl)aminoquinoxaline was dissolved in 100 ml of tetrahydrofuran, and a reaction container was purged with nitrogen. Thereafter, 5.0 g of 5% Pd/C (hydrous) was added, followed by sufficient purging with nitrogen again. This system was purged with hydrogen, followed by reaction at room temperature for 10 hours. After completion of the reaction, the system was filtered, and the resulting filtration residue was washed with tetrahydrofuran and filtered again. The solvent was removed from the resulting filtrate, and a reaction product was recrystallized from a mixed solvent of tetrahydrofuran/heptane.

reactant | 2,3-diphenyl-5-(4-nitrophenyl)aminoquinoxaline | 2.9 mmol, 5.4 g | C1(=CC=CC=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=CC=C1)NC1=CC=C(C=C1)[N+](=O)[O-] | C26H18N4O2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2,3-diphenyl-5-(4-aminophenyl)aminoquinoxaline | C1(=CC=CC=C1)C1=NC2=CC=CC(=C2N=C1C1=CC=CC=C1)NC1=CC=C(C=C1)N | C26H20N4
